US04548946
3-(3-Methoxyphenyl)indan-1-one
A solution of 3-(3-methoxyphenyl)-3-hydroxyindan-1-one (2.3 g) in 25 ml methylene chloride was stirred at 0°, then treated sequentially with 1.6 ml triethylsilane and 3.3 ml of boron trifluoride etherate. The mixture was warmed to 25° and stirred for 16 hours, then diluted with water and extracted with additional methylene chloride. After drying (MgSO4) and concentration, the residue was chromatographed on silica gel to provide the title compound as a light yellow oil (0.5 g, 23%). NMR and IR spectra were consistent with the assigned structure.

reactant | 3-(3-methoxyphenyl)-3-hydroxyindan-1-one | 2.3 g | COC=1C=C(C=CC1)C1(CC(C2=CC=CC=C12)=O)O | C16H14O3
reactant | triethylsilane | 1.6 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 3.3 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(3-Methoxyphenyl)indan-1-one | 0.5 g, 23% | COC=1C=C(C=CC1)C1CC(C2=CC=CC=C12)=O | C16H14O2
